US03979430
11.0 Gm. of 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)propionamide is refluxed for 2 hours in 70 ml. of acetic acid and 105 ml. of concentrated hydrochloric acid. The mixture is cooled and diluted, then extracted with ether. The ethereal solution is extracted with aqueous sodium carbonate and the extract acidified and extracted with ethyl acetate to afford a 70% yield of 2-(5H-dibenzo[a,d] cyclohepten-5-on-2-yl)propionic acid., m.p. (chloroform-hexane) 138°-139°C.; m.p. (acetone-hexane) 113°-115°C. Use of 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)acetamide gives a similar yield of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)acetic acid, m.p. (acetone-hexane) 148°-149.5°C.

reactant | chloroform hexane | C(Cl)(Cl)Cl.CCCCCC
reactant | 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)acetamide | C1OC2(C3=C(C=CC4=C2C=CC(=C4)CC(=O)N)C=CC=C3)OC1 | C19H17NO3
reactant | acetone hexane | CC(=O)C.CCCCCC
product | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)acetic acid | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)CC(=O)O | C17H12O3
